US05554625
Step B: Preparation of 2-t-butylsulfonamido-5-n-propylphenylboric Acid (Scheme I, compound 3. R2 =n-pr)
To a solution of 4-n-propylphenyl-t-butylsulfonamide (2.85 g, 11.2 mmoL) in anhydrous THF (20 mL) cooled to -40° C. under N2 was added 2.5M n-BuLi solution (11.2 mL, 2.5 equiv). The mixture was warmed to rt and stirred for 2 h. To the mixture, containing the bright red dianion at 0° C., was added B(OiPr)3 (3.9 mL, 1.5 equiv). The next day 2N HCl (3 mL) was added and the mixtue was stirred for 1 h. The solvent was removed under reduced pressure and the residue was extracted With EtOAc. The organic was washed with 2N HCl, H2O and brine. The organic was dried over anhydrous MgSO4 and concentrated in vacuo to afford the titled compound. Rf=0.5 (1:1 EtOAc/Hex). The crude material was used in subsequent steps without further purification.

reactant | 4-n-propylphenyl-t-butylsulfonamide | 2.85 g | C(CC)C1=CC=C(C=C1)NS(=O)(=O)C(C)(C)C | C13H21NO2S
reactant | n-BuLi | 2.5M, 11.2 mL, 2.5 equiv | [Li]CCCC
reactant | B(OiPr)3 | 3.9 mL, 1.5 equiv | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 2N, 3 mL | Cl | ClH
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-t-butylsulfonamido-5-n-propylphenylboric Acid | C(C)(C)(C)S(=O)(=O)NC1=C(C=C(C=C1)CCC)OB(O)O | C13H22BNO5S
